US04725601
A mixture of 2-amino-3-chloropyrazine (4.3 g), 2-methylbenzylamine (4.6 g), potassium carbonate (5.5 g), and potassium iodide (0.4 g) in N,N-dimethylformamide (43 ml) was refluxed for 24 hours under a nitrogen atmosphere and allowed to stand at room temperature. The mixture was poured into water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (110 g) with a mixture of chloroform and methanol (100:3) as an eluent to give 2-amino-3-(2-methylbenzylamino)pyrazine (1.4 g).

reactant | 2-amino-3-chloropyrazine | 4.3 g | NC1=NC=CN=C1Cl | C4H4ClN3
reactant | 2-methylbenzylamine | 4.6 g | CC1=C(CN)C=CC=C1 | C8H11N
reactant | potassium carbonate | 5.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | N,N-dimethylformamide | 43 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-amino-3-(2-methylbenzylamino)pyrazine | 1.4 g | NC1=NC=CN=C1NCC1=C(C=CC=C1)C | C12H14N4
